US08476474B2
Preparation of 4-benzyl-N,N-diphenylaniline
Lithium aluminum hydride (1.6 g, 43.0 mmol) was dissolved in purified tetrahydrofuran (30 mL) under a nitrogen atmosphere, and the reaction solution was stirred. A solution prepared by dissolving (4-(diphenylamino)phenyl) (phenyl)methanone (5.0 g, 14.3 mmol) in purified tetrahydrofuran (100 mL) was slowly added thereto at 0° C. The reaction mixture solution was stirred at room temperature for 2 hours, and then distilled water (30 mL) was added to the reaction mixture solution, followed by addition of aqueous sodium hydroxide solution (100 mL). The reaction solution was subjected to extraction with dichloromethane, the solvent was removed from the extracted material, and then the residue material was dried in vacuum to thereby obtain a white solid (4.1 g, yield: 86%).

reactant | Lithium aluminum hydride | 43.0 mmol, 1.6 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | (4-(diphenylamino)phenyl) (phenyl)methanone | 14.3 mmol, 5.0 g | C1(=CC=CC=C1)N(C1=CC=C(C=C1)C(=O)C1=CC=CC=C1)C1=CC=CC=C1 | C25H19NO
reactant | water | 30 mL | O | H2O
reactant | sodium hydroxide | 100 mL | [OH-].[Na+]
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 4-benzyl-N,N-diphenylaniline | 4.1 g, yield: 86% | C(C1=CC=CC=C1)C1=CC=C(N(C2=CC=CC=C2)C2=CC=CC=C2)C=C1 | C25H21N
